US05677470
Under argon atmosphere, 1 ml of methyl formate and 360 mg of sodium azide were added to a solution of 237 mg of methyl (2R,3R)-3-(2,4-difluorophenyl)-2-epoxypropionate dissolved in 9 ml of methanol-water (8:1), and the mixture was stirred at 50° C. for 43 hours. After the reaction mixture was cooled, ethyl acetate and ice water were added to the reaction mixture, and the organic layer was collected by separation. After the organic layer was washed with water and dried, the solvent was removed. The residue was purified by silica gel column chromatography (solvent; hexane:ethyl acetate=5:1) to obtain 274 mg of methyl (2R,3S)-3-(2,4-difluorophenyl)-3-azido-2-hydroxypropionate.

reactant | methyl formate | 1 ml | C(=O)OC | C2H4O2
reactant | sodium azide | 360 mg | [N-]=[N+]=[N-].[Na+]
reactant | methyl (2R,3R)-3-(2,4-difluorophenyl)-2-epoxypropionate | 237 mg | FC1=C(C=CC(=C1)F)[C@@H]1[C@H](C(=O)OC)O1 | C10H8F2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol water | 9 ml | CO.O
product | methyl (2R,3S)-3-(2,4-difluorophenyl)-3-azido-2-hydroxypropionate | 274 mg | FC1=C(C=CC(=C1)F)[C@@H]([C@H](C(=O)OC)O)N=[N+]=[N-] | C10H9F2N3O3
